US08981121B2
Water (295 g) and rotigotine hydrochloride (120 g) followed by aqueous ammonia (25%, 111 g) and cyclohexane (295 g) are heated to reflux and agitated for 30-50 minutes. The mixture was cooled to 55-65° C. and the phases separated. Water (250 mL) is charged and the batch is heated to reflux for 30-50 minutes. The batch is cooled to 55-65° and the phases separated. The batch is then heated to reflux and cyclohexane/water is distilled until no further water is collected. The batch is then cooled to 70-78° C. If the volume of cyclohexane distilled off exceeds 15 mL then an equal amount to the cyclohexane that has been distilled off is charged to the batch. The organic phase is filtered through activated carbon and celite rinsing with cylohexane (110 g). The filterate was adjusted to 60-70° C. The batch is agitated at this temperature for 30-50 minutes. The batch is then cooled to 54-60° C. and rotigotine seed was added. After 15 minutes. The batch temperature is decreased to 37° C. in 5° C. intervals every 60 minutes. After 1 h stirring at 37° C. the batch is cooled to 25° C. and held 1 h at this temperature. The batch is then cooled and stirred at 6-12° C. for at least two hours. The slurry was then filtered and washed with cyclohexane (48 g). 101.5 g of rotigotine is obtained.

reactant | Water | 295 g | O | H2O
reactant | rotigotine hydrochloride | 120 g | CCCN(CCC1=CC=CS1)[C@H]2CCC3=C(C2)C=CC=C3O.Cl
reactant | ammonia | 111 g | N | H3N
solvent | cyclohexane | 295 g | C1CCCCC1 | C6H12
product | rotigotine | 101.5 g | CCCN(CCC1=CC=CS1)[C@H]2CCC3=C(C=CC=C3O)C2 | C19H25NOS
